US07196099B2
2-[(Morpholine-4-carbonyl)-amino]-3-phenylmethanesulfonyl-propionic acid (100 mg, 0.28 mmol), 4-aminotetrahydrofuran-3-ol (100 mg, 0.96 mmol), EDC (200 mg, 1.04 mmol), and HOBt (200 mg, 1.28 mmol) were combined. DMF (2 mL) was added and then 4-methylmorpholine (0.2 mL). The mixture was stirred at ambient temperature for 2 h. After dilution with ethyl acetate (100 mL) the solution was washed with 1N aqu. HCl (30 mL), sat. aqu. NaHCO3 (30 mL) and brine (30 mL), dried with MgSO4 and evaporated under vacuum. The crude product was dissolved in dichloromethane (10 mL). Dess-Martin periodinane (300 mg, 0.71 mmol) was added, and the reaction mixture was stirred at ambient temperature for 1 h. After dilution with ethyl acetate (100 mL), the solution was washed with 0.26M Na2S2O3 in sat. aqu. NaHCO3 (30 mL), sat. aqu. NaHCO3 and brine, dried with MgSO4, and evaporated under vacuum. Purification by flash-chromatography on silica gel (ethyl acetate) gave morpholine-4-carboxylic acid [1-(4-oxo-tetrahydro-furan-3-ylcarbamoyl)-2-phenylmethanesulfonyl-ethyl]-amide (8.6 mg, 0.020 mmol) as a colorless glass. Mixture of diastereomers: 1H NMR: (DMSO) [8.42 (d, J=6.8 Hz), 7.15 (d, J=7.2 Hz), 1H], 7.40–7.32 (m, 5H), [7.06 (d, J=8 Hz), 7.05 (d, J=8 Hz), 1H], 4.78–4.68 (m, 1H), 4.49 (s), 4.48 (s), 2H], 4.32–3.75 (m, 5H), 3.60–3.23 (m, 10H). MS: (M+H)+ 440.

reactant | 2-[(Morpholine-4-carbonyl)-amino]-3-phenylmethanesulfonyl-propionic acid | 0.28 mmol, 100 mg | N1(CCOCC1)C(=O)NC(C(=O)O)CS(=O)(=O)CC1=CC=CC=C1 | C15H20N2O6S
reactant | 4-aminotetrahydrofuran-3-ol | 0.96 mmol, 100 mg | NC1C(COC1)O | C4H9NO2
reactant | EDC | 1.04 mmol, 200 mg
reactant | HOBt | 1.28 mmol, 200 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-methylmorpholine | 0.2 mL | CN1CCOCC1 | C5H11NO
reactant | Dess-Martin periodinane | 0.71 mmol, 300 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | morpholine-4-carboxylic acid [1-(4-oxo-tetrahydro-furan-3-ylcarbamoyl)-2-phenylmethanesulfonyl-ethyl]-amide | 0.020 mmol, 8.6 mg | O=C1C(COC1)NC(=O)C(CS(=O)(=O)CC1=CC=CC=C1)NC(=O)N1CCOCC1 | C19H25N3O7S
